US04782050
B. 1-(2-chloroethyl)benzimidazole
To a slurry of 30 g (0.185 mole) of 1-(2-hydroxyethyl)benzimidazole in 200 ml of methylene chloride was added dropwise 13.5 ml (0.185 mole) of thionyl chloride in 50 ml of the same solvent. The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was added to an equal volume of water and made basic (pH 8-9) by the addition of sodium bicarbonate. The organic phase was separated, dried over magnesium sulfate and evaporated to give 27.3 g of product.

reactant | 1-(2-hydroxyethyl)benzimidazole | 0.185 mole, 30 g | OCCN1C=NC2=C1C=CC=C2 | C9H10N2O
reactant | thionyl chloride | 0.185 mole, 13.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chloroethyl)benzimidazole | 27.3 g | ClCCN1C=NC2=C1C=CC=C2 | C9H9ClN2
